US07989463B2
Step (i): Synthesis of 1-{4-[2-(1-methyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}-cyclobutanecarboxylic acid methyl ester
A glass tube was charged with 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester (0.5 g, 1.4 mmol), 1-methyl-1H-pyrazole-5-boronic acid pinacol ester (0.42 g, 2 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (II) (0.081 g, 0.1 mmol) and alternatively purged and backfilled with nitrogen. After addition of anhydrous toluene (10 mL), EtOH (5 mL), and sodium carbonate (2M, 2 mL) the glass tube was sealed and heated at 100° C. under stirring until the reaction was complete as evidenced by the disappearance of starting chloro compound (TLC). The resulting mixture was cooled to a temperature in the range of 15° C. to 40° C., diluted with ethyl acetate (20 mL), filtered through Celite, washed with ethyl acetate, and the combined filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography over silica gel to afford the title compound as a light yellow solid (0.27 g, 48%).

reactant | 1-[4-(2-chloro-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino)-phenyl]-cyclobutanecarboxylic acid methyl ester | 1.4 mmol, 0.5 g | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)Cl | C19H20ClN3O2
reactant | 1-methyl-1H-pyrazole-5-boronic acid pinacol ester | 2 mmol, 0.42 g | CN1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C10H17BN2O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 0.1 mmol, 0.081 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-{4-[2-(1-methyl-1H-pyrazol-4-yl)-6,7-dihydro-5H-cyclopentapyrimidin-4-ylamino]-phenyl}-cyclobutanecarboxylic acid methyl ester | 0.27 g, 48% | COC(=O)C1(CCC1)C1=CC=C(C=C1)NC1=NC(=NC2=C1CCC2)C=2C=NN(C2)C | C23H25N5O2
